US04352816
1.77 g (5.4 mmol) of t-butyl (S)-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate are stirred in 14 ml of trifluoroacetic acid at 50° for 3 hours and at 65° for 3.5 hours. Subsequently, the mixture is evaporated to dryness and the residue is heated on a steam-bath for 2.5 hours in a high vacuum. The material is treated with ether, stirred for 1 hour while cooling with ice, the solid material is filtered off under suction while back-washing with ether and then dried. There is obtained (S)-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid of melting point 232°.

reactant | t-butyl (S)-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | 5.4 mmol, 1.77 g | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(=O)OC(C)(C)C)CC2 | C18H19N3O3
solvent | trifluoroacetic acid | 14 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(=O)O)CC2 | C14H11N3O3
